*****************************************************************
* NXP PSMN6R1-30YLD
*
* Polarity N-Channel
* Ratings 30V/6.000000E-003OHMS/65.6322957952319A
*
* Date Created Mon Aug 05 05:38:54 2013
* Created By: Steven Waterhouse.
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN6R1-30YLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 0.981801357717194
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 0.791681348704628
RLS1 8 7 0.00024

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00405341650341673 TC=-8145065.00040737,-301711.409150937
RBD 9 4 0.00192641096863887 TC=-8145065.00040737,-301711.409150937
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 7.01369326223231e-10
RG 1 2 0.43808

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	591.849226617566
+ -10	591.849226617566
+ -8	591.849226617566
+ -6	591.849226617566
+ -5	591.849226617566
+ -4	591.849226617566
+ -3	591.849226617566
+ -2	591.849226617566
+ -1	459.597
+ -0.5	368.949
+ -0.2	317.594
+ -0.1	316.348
+ 0	279.66132
+ 0.1	237.88388
+ 0.2	237.6612
+ 0.5	203.82212
+ 1	169.16148
+ 2	134.36868
+ 3	115.44188
+ 4	102.33447
+ 5	91.69789
+ 6	83.47245
+ 8	73.34046
+ 10	68.11442
+ 12	65.01783
+ 15	62.07146



.MODEL MINT NMOS(Vto=2.02847639227037 Kp=1.925256e+002 Nfs=360000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=6.16986148026339e-13
+ N=1 M=0.3 VJ=0.64 Fc=0.5 Cjo=1.41260036e-09 Tt=1.032e-08)

.ENDS

